US05929085
To 7-nitro-1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid methyl ester (5.0 g, 21.2 mmol) in dry tetrahydrofuran (18.5 ml) was added 10M borane-methyl sulfide complex (2.4 ml). The mixture was heated at reflux for 1.5 h while distilling off the methyl sulfide formed. The reaction mixture was cooled and methanol (2.7 ml) was added cautiously followed by 6N hydrochloric acid (5.4 ml). The mixture was then refluxed for 2.5 h and concentrated to dryness under reduced pressure. The solid residue was dissolved in water, the solution basified with 2.5N sodium hydroxide solution and the product extracted into dichloromethane. The crude product was purified by chromatography using silica gel and 5% methanol saturated with ammonia in dichloromethane to yield 7-nitro-1,2,3,4-tetrahydroisoquinoline-3-methanol (1.71 g).

reactant | 7-nitro-1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid methyl ester | 21.2 mmol, 5.0 g | COC(=O)C1NCC2=CC(=CC=C2C1)[N+](=O)[O-] | C11H12N2O4
reactant | methanol | 2.7 ml | CO | CH4O
reactant | hydrochloric acid | 6N, 5.4 ml | Cl | ClH
solvent | tetrahydrofuran | 18.5 ml | O1CCCC1 | C4H8O
product | 7-nitro-1,2,3,4-tetrahydroisoquinoline-3-methanol | 1.71 g | [N+](=O)([O-])C1=CC=C2CC(NCC2=C1)CO | C10H12N2O3
